US07888349B2
The methods described in Part I of Example 368 were used to treat tert-butyl 3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate (5.52 g, 12.4 mmol, Example 369 Parts A through D) with mCPBA (4.17 g of 77% purity, 18.6 mmol) followed by ammonium hydroxide (25 mL) and p-toluenesulfonyl chloride (2.6 g, 13.7 mmol) and purify the final compound to provide 2.07 g of tert-butyl 6-amino-3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate.

reactant | tert-butyl 3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C26H28N4O3
reactant | mCPBA | 18.6 mmol, 4.17 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 13.7 mmol, 2.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | tert-butyl 6-amino-3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 2.07 g | NC1=NC2=CC(=CC=C2C2=C1N=C1N2CCCN(C1)C(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C26H29N5O3
